US06548538B2
2-Bromo-N-(2,4-dimethylphenyl)-acetamide
117 g of triethylamine and 140 g of 2,4-dimethylaniline are dissolved in 21 of methylene chloride, and a solution of 233 g of alpha-bromoacetyl bromide in 400 ml of methylene chloride is added with ice-cooling, at at most 15° C., within 30 min. After a reaction time of 30 min, the precipitate is filtered off with suction, the residue is dissolved in 3 l of methylene chloride and combined with the filtrate and washed twice with 2 l of water and 2 l of sat. sodium chloride solution. The mixture is dried over sodium sulphate, filtered off with suction and concentrated, and the residue is recrystallized from ethanol. This gives 193 g of the title compound.

reactant | triethylamine | 117 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dimethylaniline | 140 g | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | alpha-bromoacetyl bromide | 233 g | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(2,4-dimethylphenyl)-acetamide | BrCC(=O)NC1=C(C=C(C=C1)C)C | C10H12BrNO
